US04795483
(a) 2-(3-Benzylthio-1,2,4-triazol-5-ylthio)propionic acid
3-Benzylthio-5-mercapto-1,2,4-triazole (56 g) was added with stirring and cooling to a solution of sodium hydroxide (10.1 g) in water (150 ml). A cold solution of 2-bromopropionic acid (38.4 g) in aqueous sodium hydroxide (10 g in 50 ml water) was added dropwise with stirring. The mixture was stirred for a further 6 hours at room temperature and allowed to stand overnight. After acidification with concentrated hydrochloric acid (30 ml), the precipitated white sticky solid was taken into ether. The ether solution was washed with water, dried, and the volume reduced to about 200 ml. The product crystallised, and was isolated by filtration to give 36.1 g of desired product, mp 123°-124° C. Successive reductions of the mother liquors gave further product, giving a total yield of 60 g.

reactant | 3-Benzylthio-5-mercapto-1,2,4-triazole | 56 g | C(C1=CC=CC=C1)SC1=NNC(=N1)S | C9H9N3S2
reactant | 2-bromopropionic acid | 38.4 g | BrC(C(=O)O)C | C3H5BrO2
reactant | hydrochloric acid | 30 ml | Cl | ClH
reactant | ether | CCOCC | C4H10O
solvent | water | 150 ml | O | H2O
solvent | sodium hydroxide | 50 ml, 10 g | [OH-].[Na+]
solvent | sodium hydroxide | 10.1 g | [OH-].[Na+]
product | 2-(3-Benzylthio-1,2,4-triazol-5-ylthio)propionic acid | 36.1 g | C(C1=CC=CC=C1)SC1=NNC(=N1)SC(C(=O)O)C | C12H13N3O2S2
